US04283532
(i) N,N-dimethylphenylacetamide
In 204 ml of anhydrous benzene was dissolved 77.5 g (0.5 mole) of commercially available phenylacetyl chloride, and the solution was added dropwise to a 50% aqueous solution of 180 g (2.0 moles) of dimethyl amine, 50 g of ice and 100 ml of benzene at an inner temperature of 5° to 25° C. After completion of the dropwise addition, the mixture was agitated for 1 hour at the same temperature.

reactant | dimethyl amine | 2.0 moles, 180 g | CNC | C2H7N
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | benzene | 204 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N,N-dimethylphenylacetamide | CN(C(CC1=CC=CC=C1)=O)C | C10H13NO
